US07524841B2
After dissolving 4-fluoro-4-(hydroxymethyl)piperidinecarboxylic acid tert-butyl ester (4.26 g, 18.3 mmol) in THF (183 mL), the solution was cooled to 0° C. Triphenylphosphine (7.19 g, 27.4 mmol) and DIAD (diisopropyl azodicarboxylate) (5.39 mL, 27.4 mmol) were then added to the solution. After stirring for 20 minutes, phthalimide (4.03 g, 27.4 mmol) was added and the mixture was stirred at room temperature for 2.5 hours. The reaction mixture was concentrated, and the crude product was crudely purified by silica gel column chromatography (20% AcOEt/hexane) to obtain 4-[(1,3-dioxoisoindolin-2-yl)methyl]-4-fluoropiperidinecarboxylic acid tert-butyl ester.

reactant | 4-fluoro-4-(hydroxymethyl)piperidinecarboxylic acid tert-butyl ester | 18.3 mmol, 4.26 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(CO)F | C11H20FNO3
reactant | Triphenylphosphine | 27.4 mmol, 7.19 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 27.4 mmol, 5.39 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | phthalimide | 27.4 mmol, 4.03 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
solvent | THF | 183 mL | C1CCOC1 | C4H8O
product | 4-[(1,3-dioxoisoindolin-2-yl)methyl]-4-fluoropiperidinecarboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(F)CN1C(C2=CC=CC=C2C1=O)=O | C19H23FN2O4
